US05492915
4-(2-thienyl)-2-quinolinone
To a solution of 2-(2-acetylaminobenzoyl)thiophene (4.8 g) in ethanol (60 cc) is added sodium ethylate (3.2 g). The reaction mixture is refluxed for 9 hours, treated again with sodium ethylate (0.5 g) and then allowed to reflux for 10 hours. The mixture is poured in iced water (200 cc). The precipitate formed is filtered, washed with distilled water until neutrality and then with acetone (3×50 cc) and dried at 40° C. under reduced pressure. The residue thus obtained is recrystallized in ethanol to obtain the product as a yellow solid. (m.p.=262°-264° C.)

reactant | 2-(2-acetylaminobenzoyl)thiophene | 4.8 g | C(C)(=O)NC1=C(C(=O)C=2SC=CC2)C=CC=C1 | C13H11NO2S
reactant | sodium ethylate | 3.2 g | CC[O-].[Na+]
reactant | sodium ethylate | 0.5 g | CC[O-].[Na+]
solvent | ethanol | 60 cc | C(C)O | C2H6O
solvent | water | 200 cc | O | H2O
product | 4-(2-thienyl)-2-quinolinone | S1C(=CC=C1)C1=CC(NC2=CC=CC=C12)=O | C13H9NOS
